US03996194
1,5-Bis(3',5'-di-t-butyl-4'-hydroxyphenyl)-3-pentylamine
In a 1-gallon stirred autoclave were placed 113 gm. (0.229 mole) of 1,5-bis(3',5'-di-t-butyl-4'-hydroxyphenyl)pentanone, 35 ml. of ammonium hydroxide (58%), 1200 ml. of isopropanol and 13 gm. of 5% palladium on carbon (Pd/C). The mixture was heated for 2 hours at 125° C and 765 PSIG of hydrogen. 0.247 mole of hydrogen was absorbed.

reactant | 1,5-bis(3',5'-di-t-butyl-4'-hydroxyphenyl)pentanone | 0.229 mole | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(CCCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C33H50O3
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.247 mole | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1,5-Bis(3',5'-di-t-butyl-4'-hydroxyphenyl)-3-pentylamine | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)N | C33H53NO2
